US04305881
A solution of 3.42 g (10 mmol) of (20S)-1α,2α-epoxy-21-hydroxy-20-methyl-pregna-4,6-dien-3-one in 100 ml of toluene is concentrated to 50 ml in a water-jet vacuum. The resulting suspension is treated at 0° C. with 2 ml of a suspension prepared from 50 ml of toluene, 0.172 g of p-toluenesulphonic acid and 0.2 ml of pyridine. Thereafter 3 ml of isopropenyl methyl ether are added and the resulting mixture is stirred at 0° C. for 3 hours. After the addition of 1 ml of triethylamine, the mixture is concentrated at 30° C./11 Torr. The crystalline residue is dissolved in a small amount of methylene chloride containing 0.1% triethylamine and treated with ether to give 2.91 g (70%) of (20S)-1α,2α-epoxy-21-(1-methoxy-1-methylethoxy)-20 -methyl-pregna-4,6-dien-3-one of melting point 150°-151° C.; [ α]D25 =+185.8° C. (c=1.0 in chloroform containing 0.1% triethylamine).

reactant | (20S)-1α,2α-epoxy-21-hydroxy-20-methyl-pregna-4,6-dien-3-one | 10 mmol, 3.42 g | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H]([C@@H](CO)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C22H30O3
reactant | water | O | H2O
reactant | p-toluenesulphonic acid | 0.172 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | isopropenyl methyl ether | 3 ml | COC(=C)C | C4H8O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
product | (20S)-1α,2α-epoxy-21-(1-methoxy-1-methylethoxy)-20 -methyl-pregna-4,6-dien-3-one | 2.91 g, 70% | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H]([C@@H](COC(C)(C)OC)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C26H38O4
